US04810713
1-[4-[3-[4-[Bis(4-fluorophenyl)hydroxymethyl]piperidinyl]propoxy]-2-hydroxyphenyl]ethanone
Following the procedure of Example 1, ]α,α-bis(p-fluorophenyl)-4-piperidinemethanol and 1-[4-(3-bromopropoxy)-2-hydroxyphenyl]ethanone are reacted to give the title compound.

reactant | α,α-bis(p-fluorophenyl)-4-piperidinemethanol | FC1=CC=C(C=C1)C(O)(C1CCNCC1)C1=CC=C(C=C1)F | C18H19F2NO
reactant | 1-[4-(3-bromopropoxy)-2-hydroxyphenyl]ethanone | BrCCCOC1=CC(=C(C=C1)C(C)=O)O | C11H13BrO3
product | 1-[4-[3-[4-[Bis(4-fluorophenyl)hydroxymethyl]piperidinyl]propoxy]-2-hydroxyphenyl]ethanone | FC1=CC=C(C=C1)C(C1CCN(CC1)CCCOC1=CC(=C(C=C1)C(C)=O)O)(O)C1=CC=C(C=C1)F | C29H31F2NO4
